US06794403B2
Step b) 2-[4-(Acetyloxy)-3-fluorophenyl]-7-vinyl-1,3-benzoxazol-5-yl acetate
Dichlorobis(tri-o-tolylphosphine)palladium (II) (46 mg, 0.06 mmol) was added into a mixture 4-[5-(acetyloxy)-7-bromo-1,3-benzoxazol-2-yl]-2-fluorophenyl acetate (0.8 g, 1.98 mmol), tributyl(vinyl)tin (0.9 g, 2.8 mmol) and p-xylene (9 mL). The reaction mixture was stirred at 130° C. for 5 h, cooled to room temperature, diluted with ethyl ether (10 mL) and treated with activated carbon. The mixture was filtered through MgSO4 and concentrated. Purification by flash chromatography (hexanes/EtOAc 5/1) gave a white solid (0.4 g, 56% yield, m.p. 154-156° C.); MS m/e 356 (M+H)+.

reactant | 4-[5-(acetyloxy)-7-bromo-1,3-benzoxazol-2-yl]-2-fluorophenyl acetate | 1.98 mmol, 0.8 g | C(C)(=O)OC1=C(C=C(C=C1)C=1OC2=C(N1)C=C(C=C2Br)OC(C)=O)F | C17H11BrFNO5
reactant | tributyl(vinyl)tin | 2.8 mmol, 0.9 g | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | p-xylene | 9 mL | CC=1C=CC(=CC1)C | C8H10
solvent | ethyl ether | 10 mL | C(C)OCC | C4H10O
catalyst | Dichlorobis(tri-o-tolylphosphine)palladium | 0.06 mmol, 46 mg | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | 2-[4-(Acetyloxy)-3-fluorophenyl]-7-vinyl-1,3-benzoxazol-5-yl acetate | 0.4 g, 56% yield | C(C)(=O)OC=1C=C(C2=C(N=C(O2)C2=CC(=C(C=C2)OC(C)=O)F)C1)C=C | C19H14FNO5
